US05780498
Coupling of N-(3,5-dimethylbenzoyl)-N-methyl-(D)-phenylalanine (derived from the corresponding methylester described in example 78 by hydrolysis with lithium hydroxide in methanol/water: [a]D =+88° (c=1.0, ethanol)) with (L)-phenylalanine methyl ester hydrochloride according to example 1 followed by hydrolysis of the methyl ester moiety according to example 12 gives N-(3,5-dimethylbenzoyl)-N-methyl-(D)-phenylalanyl-(L)-phenylalanine; FAB-MS m/e 457 (M-H)-.

reactant | N-(3,5-dimethylbenzoyl)-N-methyl-(D)-phenylalanine | CC=1C=C(C(=O)N([C@H](CC2=CC=CC=C2)C(=O)O)C)C=C(C1)C | C19H21NO3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | ethanol | C(C)O | C2H6O
reactant | (L)-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
solvent | methanol water | CO.O
product | N-(3,5-dimethylbenzoyl)-N-methyl-(D)-phenylalanyl-(L)-phenylalanine | CC=1C=C(C(=O)N([C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C)C=C(C1)C | C28H30N2O4
